US08222248B2
To a solution of 3-(3,5-dichloro-4-{(E)-2-[2-nitro-4-(quinolin-2-ylcarbamoyl)-phenyl]-vinyl}-phenyl)-propionic acid tert-butyl ester (200 mg, 0.34 mmol) was added triethylphosphite (300 μL) and the mixture was stirred at 160° C. for 3 h. The solvent was removed under reduced pressure and the residue was taken up in toluene and concentrated twice. The crude material was purified by flash chromatography on silica gel, eluting with a gradient of 2-100% ethyl acetate/heptane to obtain 3-{3,5-dichloro-4-[6-(quinolin-2-ylcarbamoyl)-1H-indol-2-yl]-phenyl}-propionic acid tert-butyl ester as a yellow solid. MS (m/z) 560.2 (M+1); 1H NMR (DMSO-d6, 400 MHz) δ 11.81 (d, J=1.52 Hz, 1H), 11.04 (s, 1H), 8.39 (s, 2H), 8.20 (s, 1H), 7.94 (d, J=1.14 Hz, 1H), 7.88 (d, J=8.08 Hz, 1H), 7.80 (dd, J=8.34, 1.52 Hz, 1H), 7.73 (ddd, J=8.37, 6.92, 1.39 Hz, 1H), 7.68 (d, J=8.46 Hz, 1H), 7.55 (s, 2H), 7.52 (t, J=6.95 Hz, 1H), 6.57 (d, J=1.39 Hz, 1H), 2.90 (t, J=7.33 Hz, 2H), 2.62 (t, J=7.45 Hz, 2H), 1.40 (s, 9H).

reactant | 3-(3,5-dichloro-4-{(E)-2-[2-nitro-4-(quinolin-2-ylcarbamoyl)-phenyl]-vinyl}-phenyl)-propionic acid tert-butyl ester | 0.34 mmol, 200 mg | C(C)(C)(C)OC(CCC1=CC(=C(C(=C1)Cl)\C=C\C1=C(C=C(C=C1)C(NC1=NC2=CC=CC=C2C=C1)=O)[N+](=O)[O-])Cl)=O | C31H27Cl2N3O5
solvent | triethylphosphite | 300 μL | C(C)OP(OCC)OCC | C6H15O3P
product | 3-{3,5-dichloro-4-[6-(quinolin-2-ylcarbamoyl)-1H-indol-2-yl]-phenyl}-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCC1=CC(=C(C(=C1)Cl)C=1NC2=CC(=CC=C2C1)C(NC1=NC2=CC=CC=C2C=C1)=O)Cl)=O | C31H27Cl2N3O3
